US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-2-[N-(4-amino-3,5-dichlorophenyl)-methylamino]-ethylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane, 2-[N-(4-amino-3,5-dichlorophenyl)-methylamino]-ethylamine and triethylamine analogously to Example 6.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 2-[N-(4-amino-3,5-dichlorophenyl)-methylamino]-ethylamine | NC1=C(C=C(C=C1Cl)N(CCN)C)Cl | C9H13Cl2N3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-2-[N-(4-amino-3,5-dichlorophenyl)-methylamino]-ethylamine | COC1=CC2=C(CC(N(CC2)CCCNCCN(C2=CC(=C(C(=C2)Cl)N)Cl)C)=O)C=C1OC | C24H32Cl2N4O3
